US07262185B2
To 2-hydroxymethyl-1-methylimidazole (874 mg) was added thionyl chloride (10 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure and the obtained residue was recrystallized from ethyl acetate, to give 2-chloromethyl-1-methylimidazole hydrochloride (1.15 g) as brown crystals.

reactant | 2-hydroxymethyl-1-methylimidazole | 874 mg | OCC=1N(C=CN1)C | C5H8N2O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-methylimidazole hydrochloride | 1.15 g | Cl.ClCC=1N(C=CN1)C | InChI=1S/C5H7ClN2.ClH/c1-8-3-2-7-5(8)4-6;/h2-3H,4H2,1H3;1H
